US08685418B2
1-((tert-butoxycarbonyl)(cyclohexyl)amino)propan-2-yl 2,4,6-trimethyl-benzoate (1.0 g, 2.48 mmol) was dissolved in dioxane-HCl (15 mL). The reaction mixture was stirred at rt for 2 hours. Solvent was evaporated. Crude solid was dissolved in DCE (10 ml) and formaldehyde (0.34 mL, 3.96 mmol), and sodium triacetoxyborohydride (1.67 g, 7.92 mmol) and acetic acid (0.5 mL) were added at 0° C. The resultant reaction mixture was stirred at rt for 16 hours. The reaction mixture was diluted in DCM and washed with 1N NaOH, water and brine. The organic layer was dried over sodium sulphate and concentrated to dryness. The crude compound was purified by column chromatography to obtain 1-(cyclohexyl(methyl)amino)propan-2-yl-2,4,6-trimethylbenzoate. Yield: 0.6 (76%); 1H NMR (400 MHz, CDCl3) δ 6.82 (s, 2 H), 5.27-5.25 (m, 1 H), 2.64-2.62 (m, 1 H), 2.51-2.46 (m, 1 H), 2.29 (s, 9 H), 2.25 (s, 3 H), 1.75-1.74 (m, 4 H), 1.33-1.31 (d, J=6 Hz, 3 H), 1.18-1.13 (m, 4 H), 1.09-1.03 (m, 1H); LCMS: m/z=317.8 [M+H], RT=2.98 min (Column: X, Program: P1).

reactant | 1-((tert-butoxycarbonyl)(cyclohexyl)amino)propan-2-yl 2,4,6-trimethyl-benzoate | 2.48 mmol, 1.0 g | CC1=C(C(=O)OC(CN(C2CCCCC2)C(=O)OC(C)(C)C)C)C(=CC(=C1)C)C | C24H37NO4
reactant | formaldehyde | 3.96 mmol, 0.34 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 7.92 mmol, 1.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | dioxane-HCl | 15 mL | Cl.O1CCOCC1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(cyclohexyl(methyl)amino)propan-2-yl-2,4,6-trimethylbenzoate | C1(CCCCC1)N(CC(C)OC(C1=C(C=C(C=C1C)C)C)=O)C | C20H31NO2
